US07320994B2
(2-chloro-phenyl)-[3-(2-trimethylsilanyl-ethoxymethoxy)-pyridin-2-yl]-methanone
Add manganese oxide (II) (463 mg, 5.33 mmol) to a solution of (2-chloro-phenyl)-[3-(2-trimethylsilanyl-ethoxymethoxy)-pyridin-2-yl]-methanol (390 mg, 1.07 mmol) in toluene (20 mL), heat to reflux overnight. Filter mixture through Celite® and concentrate. Purify the residue by flash chromatography on silica gel eluting with 0-20% EtOAc/hexanes to afford the title compound (195 mg, 49%) as pink oil. MS(IS) 364 (M+1). TLC: Rf=0.45 (35% EtOAc/hexanes).

reactant | (2-chloro-phenyl)-[3-(2-trimethylsilanyl-ethoxymethoxy)-pyridin-2-yl]-methanol | 1.07 mmol, 390 mg | ClC1=C(C=CC=C1)C(O)C1=NC=CC=C1OCOCC[Si](C)(C)C | C18H24ClNO3Si
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese oxide | 5.33 mmol, 463 mg | [O-2].[Mn+2]
product | (2-chloro-phenyl)-[3-(2-trimethylsilanyl-ethoxymethoxy)-pyridin-2-yl]-methanone | 195 mg, 49% | ClC1=C(C=CC=C1)C(=O)C1=NC=CC=C1OCOCC[Si](C)(C)C | C18H22ClNO3Si
